US04367238
A mixture of 2-[2-hydroxy-3-(2-chlorophenoxy)phenyl]acetic acid (1.9 g) and p-toluenesulfonic acid (0.5 g) in benzene 50 ml was treated in a similar manner to that of Example 1-(6), and the residue was recrystallized from a mixture of diethyl ether and n-hexane to give 7-(2-chlorophenoxy)-2,3-dihydrobenzofuran-2-one (1.2 g). mp 118°-120° C.

reactant | 2-[2-hydroxy-3-(2-chlorophenoxy)phenyl]acetic acid | 1.9 g | OC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CC(=O)O | C14H11ClO4
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 7-(2-chlorophenoxy)-2,3-dihydrobenzofuran-2-one | 1.2 g | ClC1=C(OC2=CC=CC=3CC(OC32)=O)C=CC=C1 | C14H9ClO3
